US04971982
9.23 g of 1-bromo-2-methylprop-1-ene were added dropwise to 2.5 g of magnesium turnings covered with tetrahydrofuran while heating. 7.76 g of 2-methoxyphenyl 3-methyl-2-pyridyl ketone were added while heating to reflux. After 4 hours the mixture was allowed to cool to room temperature. Saturated ammonium chloride solution was added and the resulting mixture was extracted with diethyl ether. The organic extract was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution. There were obtained 5.75 g of 1-(2-methoxyphenyl)-3-methyl-1-(3-methyl-2-pyridyl)-2-buten-1-ol in the form of an oil.

reactant | 1-bromo-2-methylprop-1-ene | 9.23 g | BrC=C(C)C | C4H7Br
reactant | magnesium | 2.5 g | [Mg] | Mg
reactant | 2-methoxyphenyl 3-methyl-2-pyridyl ketone | 7.76 g | CC=1C(=NC=CC1)C(=O)C1=C(C=CC=C1)OC | C14H13NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2-methoxyphenyl)-3-methyl-1-(3-methyl-2-pyridyl)-2-buten-1-ol | 5.75 g | COC1=C(C=CC=C1)C(C=C(C)C)(O)C1=NC=CC=C1C | C18H21NO2
